US07285564B2
Step C—Preparation of 4-[N-(7-Hydroxy-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine
To a solution of N-(1-benzylpiperdin-4-yl)-N-isopropyl 4-(2-hydroxyethoxy)butyramide (2.7 g, 7.5 mmol) in THF (20 mL) was slowly added 1 M lithium aluminum hydride in THF (11.3 mL, 11.3 mmol) at 0° C. The reaction mixture was stirred at room temperature overnight and then quenched by slow addition of 15% aqueous sodium hydroxide at 0° C. until no gas formation was observed. After stirring for 10 minutes at room temperature, a solid formed and the reaction mixture was filtered and the precipatate washed with THF three times. The filtrate was then concentrated and the residue was dissolved in dichloromethane and this solution was washed with brine, dried over magnesium sulfate and concentrated in vacuo to give 2.13 g of the title intermediate (82% yield).

reactant | N-(1-benzylpiperdin-4-yl)-N-isopropyl 4-(2-hydroxyethoxy)butyramide | 7.5 mmol, 2.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CCCOCCO)=O)C(C)C | C21H34N2O3
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 11.3 mmol, 11.3 mL | C1CCOC1 | C4H8O
product | 4-[N-(7-Hydroxy-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine | 2.13 g, 82% yield | OCCOCCCCN(C(C)C)C1CCN(CC1)CC1=CC=CC=C1 | C21H36N2O2
